US07622583B2
4-Chloro-N-{5-chloro-2-[methoxyimino-(1H-pyrrolo[2,3-b]pyridin-4-yl)-methyl]-pyridin-3-yl}-3-trifluoromethyl-benzenesulfonamide
A solution of 4-chloro-N-[5-chloro-2-(1H-pyrrolo[2,3-b]pyridine-4-carbonyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide (41 mg), methoxylamine hydrochloride salt (67 mg) and Et3N (0.14 mL) in THF (1 mL) was heated to 80° C. for 12 h. The mixture was cooled to room temperature, diluted with EtOAc (5 mL), filtered and evaporated in vacuo. The residue was purified by flash chromatography (silica) to afford the title compound as a white powder. MS (M+H)+: 544.0.

reactant | 4-chloro-N-[5-chloro-2-(1H-pyrrolo[2,3-b]pyridine-4-carbonyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide | 41 mg | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C(=O)C=1C2=C(N=CC1)NC=C2)C(F)(F)F | C20H11Cl2F3N4O3S
reactant | methoxylamine hydrochloride salt | 67 mg | Cl.O(C)N
reactant | Et3N | 0.14 mL | CCN(CC)CC | C6H15N
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | 4-Chloro-N-{5-chloro-2-[methoxyimino-(1H-pyrrolo[2,3-b]pyridin-4-yl)-methyl]-pyridin-3-yl}-3-trifluoromethyl-benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C(C1=C2C(=NC=C1)NC=C2)=NOC)C(F)(F)F | C21H14Cl2F3N5O3S
